US08426447B2
To a solution of 6-fluoropyridin-3-ol (75 g, 663 mmol) in DMF (265 mL, 663 mmol) were added potassium carbonate (59.7 g, 995 mmol) and iodomethane (108 g, 763 mmol). The resulting slurry was heated at 100° C. for 3 hours. The reaction was diluted with water (1000 mL) and poured into a separatory funnel containing diethyl ether (1000 mL). The layers were separated and the aqueous layer was extracted with diethyl ether (4×500 mL). The combined organic layers were washed with water and then brine, dried over sodium sulfate, filtered and concentrated in vacuo to provide a yellow oil. This oil was diluted with 500 mL of DCM and concentrated to provide a yellow oil with a large amount of an off white precipitate. The mixture was filtered and the derived solid was washed well with DCM. The filtrate was concentrate to provide a mixture consisting of a yellow oil and an off white solid. The solid eas filtered, washing with DCM. Repeat this procedure again and then concentrated the filtrate to provide a yellow oil. The oil was taken up in 100 mL of ether and flashed through a plug of silica gel with 10:1 hexanes:ether to provide 2-fluoro-5-methoxypyridine as a yellow oil.

reactant | 6-fluoropyridin-3-ol | 663 mmol, 75 g | FC1=CC=C(C=N1)O | C5H4FNO
reactant | DMF | 663 mmol, 265 mL | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 995 mmol, 59.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 763 mmol, 108 g | IC | CH3I
solvent | water | 1000 mL | O | H2O
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 100 mL | CCOCC | C4H10O
solvent | diethyl ether | 1000 mL | C(C)OCC | C4H10O
product | 2-fluoro-5-methoxypyridine | FC1=NC=C(C=C1)OC | C6H6FNO
